US05216165
N-Benzoyl-4-piperidone (45.92 g, 226 mmol) was converted to the oxime by treatment with HONH2.HCl (237 mmol, 16.49 g) in 90 ml of methanol and 90.4 ml of 2.5N NaOH. After stirring overnight, the reaction was concentrated under reduced pressure and three times treated with toluene and reconcentrated to remove the last traces of water. The resulting oxime (57 g) was dissolved in 1L of methanol, treated with 226 ml of 1N HCl and 4 g of PtO2. The mixture was then hydrogenated in a Paar apparatus at 50 psi. After 16.75 h, the catalyst was filtered and the methanol was concentrated in vacuo. Water (100 ml) was then added to the aqueous phase that was then extracted with 7×700 ml of CH2Cl2. The aqueous phase was made basic with 2.5N NaOH and extracted with 5×100 ml of CH2Cl2. The pooled extracts were concentrated in vacuo affording 18.17 g (88.9 mmol, 39% overall yield) of 4-amino-1-benzoylpiperidine as a yellow oil.

reactant | N-Benzoyl-4-piperidone | 226 mmol, 45.92 g | C(C1=CC=CC=C1)(=O)N1CCC(CC1)=O | C12H13NO2
reactant | HONH2.HCl | 237 mmol, 16.49 g | ON.Cl
solvent | methanol | 90 ml | CO | CH4O
solvent | NaOH | 2.5N, 90.4 ml | [OH-].[Na+]
product | 4-amino-1-benzoylpiperidine | 88.9 mmol, 18.17 g, 39% | NC1CCN(CC1)C(C1=CC=CC=C1)=O | C12H16N2O
